US04084049
Aniline (0.28 g) was added to a solution of 2,2,2-trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate (1.10 g) in methylene chloride (15 ml). To the solution was added silver fluoborate 0.45 g under ice-cooling under stirring and stirred at the same temperature for 4 hours. After the reaction, the mixture was filtered and the filtrate was washed with dilute phosphoric acid aqueous solution and water in turn. The solution was dried over magnesium sulphate and concentrated. The residue was subjected to column chromatography on silica gel (25 g) using chloroform. The 12th to 13th fractions of fractions, each of which was separated into 20 cc, were concentrated to give oily 2,2,2-trichloroethyl 3-anilino-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate.

reactant | Aniline | 0.28 g | NC1=CC=CC=C1 | C6H7N
reactant | 2,2,2-trichloroethyl 3-bromo-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate | 1.10 g | BrC1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | silver fluoborate | 0.45 g | [B-](F)(F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 3-anilino-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate | N(C1=CC=CC=C1)C1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C24H24Cl3N3O4S
